US07138533B2
N-[5-(5-chloropentanoyl)-2,3-dihydro-1H-inden-2-yl]acetamide
Using N-(2,3-dihydro-1H-inden-2-yl)-N-methylacetamide and 5-chlorovaleryl chloride according to the same method as that of Example 1, the title compound was obtained as colorless crystals.

reactant | N-(2,3-dihydro-1H-inden-2-yl)-N-methylacetamide | C1C(CC2=CC=CC=C12)N(C(C)=O)C | C12H15NO
reactant | 5-chlorovaleryl chloride | ClCCCCC(=O)Cl | C5H8Cl2O
product | N-[5-(5-chloropentanoyl)-2,3-dihydro-1H-inden-2-yl]acetamide | ClCCCCC(=O)C=1C=C2CC(CC2=CC1)NC(C)=O | C16H20ClNO2
